### PR TITLE
[Merged by Bors] - feat: add Nontrivial instance for linear maps

### PR DESCRIPTION
**Pull request by faenuccio**
Show that the space of `K`-linear maps between two non-trivial `K`-vector spaces is nontrivial, and that the space of continuous linear maps between two non-trivial topological vector spaces `V` and `W` over a topological field `R` is nontrivial, under the assumption that `R`-scalar multiplication is continuous on `W` and that `SeparatingDual R V`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Basis/VectorSpace.lean [hunk 1]
```diff
@@ -287,6 +287,13 @@ theorem Submodule.exists_le_ker_of_notMem {p : Submodule K V} {v : V} (hv : v 
   refine ⟨f, by simp [hfv], fun x hx ↦ ?_⟩
   simpa using congr($hpf ⟨x, hx⟩)
 
+instance [Nontrivial V] [Nontrivial V'] : Nontrivial (V →ₗ[K] V') := by
```
Comment (plp127) [inline Mathlib/LinearAlgebra/Basis/VectorSpace.lean:292]: Would it be possible to do this for semilinear maps?

Comment (faenuccio) [reply Mathlib/LinearAlgebra/Basis/VectorSpace.lean:292]: Ah, good point. I'll give it a try and ping you.

Comment (faenuccio) [reply Mathlib/LinearAlgebra/Basis/VectorSpace.lean:292]: Well, actually I think it won't be very smooth. One way will be passing through this instance, by base-change trivialising the semi-linear action. Another would be to re-factor entirely the partial linear maps to become partial semi-linear ones. I think that in both cases it will be a bit long and it is more urgent to have at least this instance (note that it being Prop-valued we don't risk any diamond).

File: Mathlib/LinearAlgebra/Basis/VectorSpace.lean [hunk 2]
```diff
@@ -298,6 +307,7 @@ theorem Submodule.exists_le_ker_of_lt_top (p : Submodule K V) (hp : p < ⊤) :
   rcases exists_le_ker_of_notMem hpv with ⟨f, hfv, hpf⟩
   exact ⟨f, ne_of_apply_ne (· v) hfv, hpf⟩
 
+
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/Basis/VectorSpace.lean]:
```suggestion
```

File: Mathlib/Analysis/NormedSpace/HahnBanach/Extension.lean [hunk 3]
```diff
@@ -185,4 +183,15 @@ theorem exists_dual_vector'' (x : E) : ∃ g : StrongDual 𝕜 E, ‖g‖ ≤ 1
...
 
+/-- As a consequence of Hahn-Banach, if `E` and `F` are nontrivial normed vector spaces over an
+`RCLike` field `𝕜`, there are nontrivial continuous linear operators between them. -/
+instance (F : Type*) [NormedAddCommGroup F] [NormedSpace 𝕜 F] [Nontrivial E] [Nontrivial F] :
+    Nontrivial (E →L[𝕜] F) := by
+  obtain ⟨v, hv⟩ := exists_ne (0 : E)
+  obtain ⟨φ, hφ_norm, hφ_eval⟩ := exists_dual_vector 𝕜 _ hv
+  obtain ⟨w, hw⟩ := exists_ne (0 : F)
+  refine ⟨(𝕜 ∙ w).subtypeₗᵢ.toContinuousLinearMap ∘L
+    (toSpanNonzeroSingleton 𝕜 _ hw) ∘L φ, 0, DFunLike.ne_iff.mpr ⟨v, by simp [hφ_eval, hv, hw]⟩⟩
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/HahnBanach/Extension.lean]: We have an abstraction for your assumptions here as [SeparatingDual](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.html#SeparatingDual), could you write the instance in that setup? I think it should then apply automatically in this context.

File: Mathlib/LinearAlgebra/Basis/VectorSpace.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/LinearAlgebra/Basis/VectorSpace.lean:292]: I think the easiest route would be to semilinearize [LinearMap.smulRight](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/LinearMap/End.html#LinearMap.smulRight), since you could then first build a nonzero linear form and then push it to a semilinear map to your target module.

But I agree this can be left for later.

Comment (faenuccio) [reply Mathlib/LinearAlgebra/Basis/VectorSpace.lean:292]: Yes, I agree as well. At least we start having this.

File: Mathlib/Analysis/NormedSpace/HahnBanach/Extension.lean (hunk 3 above)
Comment (faenuccio) [reply Mathlib/Analysis/NormedSpace/HahnBanach/Extension.lean]: The problem is that `SeparatingDual`is defined in `Mathlib.Analysis.NormedSpace.HahnBanach.SeparatingDual` that imports this file, so I would need to move this instance there, although it seems quite natural here. Do you really prefer that?

Comment (ADedecker) [reply Mathlib/Analysis/NormedSpace/HahnBanach/Extension.lean]: I think so, because of code factorization. This way the instance comes for free given any `SeparatingDual` instance: for now this adds real locally convex spaces (which is already significant!), but in the future it could apply to Banach spaces over the p-adics (IIUC what I read online).

Comment (faenuccio) [reply Mathlib/Analysis/NormedSpace/HahnBanach/Extension.lean]: OK, fine (for the p-adics we will need to add spherically complete, but spherically complete implies that the dual space separates points, so that will be fine).

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 4]
```diff
@@ -99,6 +103,46 @@ theorem dualMap_surjective_iff {W} [AddCommGroup W] [Module R W] [FiniteDimensio
...
+      use x • w
+      rw [Submodule.mem_span_singleton]
+      use x
+    map_add' x y := by
+      simp
+      exact Module.add_smul x y w
+    map_smul' m x:= by
+      simp
+      exact mul_smul m x w
+    cont := by fun_prop} with hφ
```
Comment (plp127) [inline Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean]:
```suggestion
    cont := by fun_prop } with hφ
```

**Comment by faenuccio** [comment]
@plp127 Thanks, but it still needs golfing (I'm generalising something else before coming back to this PR).

File: Mathlib/Analysis/NormedSpace/HahnBanach/Extension.lean (hunk 3 above)
Comment (faenuccio) [reply Mathlib/Analysis/NormedSpace/HahnBanach/Extension.lean]: @ADedecker I've moved things around and have generalised the proof to the `SeparatingDual` setting: thanks for the hint!

File: Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean [hunk 5]
```diff
@@ -99,6 +109,22 @@ theorem dualMap_surjective_iff {W} [AddCommGroup W] [Module R W] [FiniteDimensio
...
+nontrivial continuous `R`-linear operators between `V` and `W`. -/
+instance (W) [AddCommGroup W] [TopologicalSpace W] [Module R W] [Nontrivial W]
+   [ContinuousSMul R W] [Nontrivial V] : Nontrivial (V →L[R] W) := by
+  obtain ⟨v, hv⟩ := exists_ne (0 : V)
+  obtain ⟨w, hw⟩ := exists_ne (0 : W)
+  obtain ⟨ψ, hψ⟩ := exists_ne_zero (R := R) hv
+  let φ := toSpanSingleton R (⟨w, Submodule.mem_span_singleton_self _⟩ : (R ∙ w))
+  refine ⟨(R ∙ w).subtypeL ∘L φ ∘L ψ, 0, DFunLike.ne_iff.mpr ⟨v, ?_⟩⟩
+  simpa [map_ne_zero_iff (R ∙ w).subtypeL <| (R ∙ w).subtype_injective,
+    map_ne_zero_iff φ <| smul_left_injective _ <| by simp [hw]]
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/HahnBanach/SeparatingDual.lean]:
```suggestion
  exact ⟨ψ.smulRight w, 0, DFunLike.ne_iff.mpr ⟨v, by simp_all⟩⟩
```

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/NormedSpace/HahnBanach/Extension.lean (hunk 3 above)
Comment (ADedecker) [reply Mathlib/Analysis/NormedSpace/HahnBanach/Extension.lean]: > OK, fine (for the p-adics we will need to add spherically complete, but spherically complete implies that the dual space separates points, so that will be fine).

I thought it was enough for the field to be spherically complete? Anyways, this is off-topic.
